US08138176B2
4-(5,6-Dihydro-8H-imidazo[5,1-c][1,4]oxazin-5-yl)benzonitrile
A solution of 1.00 mmol of 1-(4-cyanophenyl)-2-(1-trityl-1H-imidazol-4-ylmethoxy)ethyl methanesulphonate in 5 ml of N,N-dimethylformamide is mixed with 2.50 mmol of caesium carbonate and heated at 80° C. for 6 hours. The reaction mixture is cooled to room temperature, diluted with water and extracted with ethyl acetate (2×). The combined organic phases are dried with sodium sulphate and evaporated. The title compound is obtained from the residue as yellowish crystals by flash chromatography (SiO2 60 F). Rf=0.61 (dichloromethane-methanol-25% aqueous ammonia solution 200:10:1); Rt=3.54 (gradient II).

reactant | 1-(4-cyanophenyl)-2-(1-trityl-1H-imidazol-4-ylmethoxy)ethyl methanesulphonate | 1.00 mmol | CS(=O)(=O)OC(COCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C#N | C33H29N3O4S
reactant | caesium carbonate | 2.50 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(5,6-Dihydro-8H-imidazo[5,1-c][1,4]oxazin-5-yl)benzonitrile | C=1N=CN2C1COCC2C2=CC=C(C#N)C=C2 | C13H11N3O
